US05976759
38.4 g (0.36 mol) of p-cresol and 35.0 g (0.25 mol) of xylene-α,α'-diol were dissolved under heating, then 0.15 g of methanesulfonic acid was added thereto at 90-100° C. and the mixture was stirred and reacted at the same temperature for 2 hours. After cooling, 100 ml of acetone was poured into and dissolved in the reaction solution and then the solution was poured into 2,000 ml of water, stirred and then allowed to stand, after which the supernatant was decanted and the residue was dissolved in 100 ml of acetone, poured into 2,000 ml of water and stirred. The solution was allowed to stand, the supernatant was decanted and the residue was evaporated to dryness under reduced pressure to give 65.0 g of p-cresol/1,4-dihydroxymethylbenzene polycondensate as faintly yellow-tinted powdery crystals. Mw≈6,700; Mw/Mn=3.50 (GPC with polystyrene calibration).

reactant | p-cresol | 0.36 mol, 38.4 g | C1=CC(=CC=C1O)C | C7H8O
reactant | xylene-α,α'-diol | 0.25 mol, 35.0 g | C=1(C(=CC=CC1)CO)CO | C8H10O2
reactant | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | methanesulfonic acid | 0.15 g | CS(=O)(=O)O | CH4O3S
solvent | water | 2,000 ml | O | H2O
product | p-cresol 1,4-dihydroxymethylbenzene | 65.0 g | C1=CC(=CC=C1O)C.OCC1=CC=C(C=C1)CO | InChI=1S/C8H10O2.C7H8O/c9-5-7-1-2-8(6-10)4-3-7;1-6-2-4-7(8)5-3-6/h1-4,9-10H,5-6H2;2-5,8H,1H3
